US07018559B2
A 500 mL round bottom flask equipped with a stirrer bar was charged with 78 g (0.60 mol) 2-ethyl hexyl alcohol and 170 mL of pyridine. The mixture was cooled to 0° C. Tosyl chloride (120.8 g, 0.63 mol) was slowly added to the above mixture at 0-5° C. The reaction was carried out for 3 hrs. The reaction mixture was poured into 1.2 L of HCl solution (1 M), extracted with chloroform (3×200 mL), washed with water (3×200 mL) and dried with sodium sulfate. The organic layer was evaporated and the residue vacuum distilled to give a 2-ethylhexyl tosylate.

reactant | 2-ethyl hexyl alcohol | 0.60 mol, 78 g | C(C)C(CO)CCCC | C8H18O
reactant | Tosyl chloride | 0.63 mol, 120.8 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | HCl | 1 M, 1.2 L | Cl | ClH
solvent | pyridine | 170 mL | N1=CC=CC=C1 | C5H5N
product | 2-ethylhexyl tosylate | S(=O)(=O)(OCC(CCCC)CC)C1=CC=C(C)C=C1 | C15H24O3S
